US04695295
Preparation of 2-Heptadecyl-2-Oxazoline
A stirred mixture of about 50.0 grams (0.19 mole) stearonitrile, about 11.7 grams (0.19 mole) ethanolamine, and about 1.2 grams (0.0048 mole) cadmium acetate dihydrate is heated at about 115 degrees C. to about 125 degrees C. under nitrogen for about 88 hours. The mixture is cooled and then dissolved in about 450 ml of methylene chloride and dried over magnesium sulfate. The mixture is then filtered. Residual solvent is removed from the filtrate by vacuum. About 58.6 grams of light yellow solid is obtained. The solid is recrystallized from about 300 ml of hexane. The recrystallized material is collected, washed, and dried, yielding about 4.7 grams with a melting point of about 77 degrees C. to about 90 degrees C. The resulting filtrate, rinses, material removed in the initial filtration step and about 200 ml additional hexane are combined, heated, and filtered using gravity. The product is stored in a refrigerator for several days. The formed crystals are collected, rinsed, and dried at 50 degrees C. under vacuum, yielding about 36.3 grams of white solid with a melting point of about 50 degrees C. to about 54 degrees C.

reactant | stearonitrile | 0.19 mole, about 50.0 grams | C(CCCCCCCCCCCCCCCCC)#N | C18H35N
reactant | ethanolamine | 0.19 mole, about 11.7 grams | C(O)CN | C2H7NO
solvent | methylene chloride | about 450 ml | C(Cl)Cl | CH2Cl2
catalyst | cadmium acetate dihydrate | 0.0048 mole, about 1.2 grams | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
product | 2-Heptadecyl-2-Oxazoline | 58.6 grams | C(CCCCCCCCCCCCCCCC)C=1OCCN1 | C20H39NO
